US08377954B2
To a solution of 1-benzyl-4-piperidinone (25.0 g, 132 mmol) in acetic acid (132 ml) at 0° C. were added 3-fluoroaniline (12.7 ml, 132 mmol) and trimethylsilyl cyanide (17.6 ml, 132 mmol) dropwise. The reaction was allowed to warm to rt and stir for 18 h. The reaction was poured onto a mixture of ice (200 g) and ammonium hydroxide (200 ml), and the product was extracted with dichloromethane (4×500 ml). The combined organic extractions were washed with brine, dried over sodium sulfate, filtered, and concentrated in vacuo to give a brown solid. The crude material was recrystallized from diethyl ether to afford 1-benzyl-4-[(3-fluorophenyl)amino]piperidine-4-carbonitrile as a beige solid (67%). LCMS. (M+H) 310.1. 1H NMR (400 MHz, DMSO) δ 7.33 (m, 4H), 7.25 (m, 1H), 7.19 (q, J=7.8 Hz, 1H), 6.66 (dd, J=8.2, 2.0 Hz, 1H), 6.59 (dt, J=12.2, 2.2 Hz, 1H), 6.50 (td, J=8.5, 2.2 Hz, 1H), 6.42 (s, 1H), 3.52 (s, 2H), 2.76 (d, J=11.2 Hz, 2H), 2.30 (t, J=10.9 Hz, 4H), 1.82 (t, J=10.5 Hz, 2H).

reactant | 1-benzyl-4-piperidinone | 132 mmol, 25.0 g | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
reactant | 3-fluoroaniline | 132 mmol, 12.7 ml | FC=1C=C(N)C=CC1 | C6H6FN
reactant | trimethylsilyl cyanide | 132 mmol, 17.6 ml | C[Si](C)(C)C#N | C4H9NSi
reactant | ammonium hydroxide | 200 ml | [OH-].[NH4+]
solvent | acetic acid | 132 ml | C(C)(=O)O | C2H4O2
product | 1-benzyl-4-[(3-fluorophenyl)amino]piperidine-4-carbonitrile | 67% | C(C1=CC=CC=C1)N1CCC(CC1)(C#N)NC1=CC(=CC=C1)F | C19H20FN3
